* Created by KLayout
*** My special header ***

* cell opamp_r2r_KM
* pin INM
* pin INP
* pin OUT
* pin VB
* pin VDD
* pin VSS
.SUBCKT opamp_r2r_KM INM INP OUT VB VDD VSS
* cell instance $1 r0 *1 925,176.1
X$1 \$17 \$18 OUT \$20 VDD \$19 VSS opamp_r2r_ABAMP_KM
* cell instance $2 r0 *1 60.1,19.5
X$2 \$10 \$6 \$21 \$24 \$11 \$9 VB VDD VSS opamp_r2r_CS
* cell instance $3 r0 *1 711.1,20.9
X$3 \$14 \$13 \$17 \$10 \$18 \$9 \$19 \$24 VDD \$20 \$11 \$15 \$16 VSS
+ opamp_r2r_cascode
* cell instance $4 r0 *1 131.4,181.9
X$4 \$6 \$10 \$15 \$16 INP INM \$14 \$11 \$13 VDD \$21 VSS opamp_r2r_diff_KM
.ENDS opamp_r2r_KM

* cell opamp_r2r_ABAMP_KM
* pin AB_N
* pin CAP_N
* pin OUT
* pin CAP_P
* pin VDD
* pin AB_P
* pin VSS
.SUBCKT opamp_r2r_ABAMP_KM AB_N CAP_N OUT CAP_P VDD AB_P VSS
* device instance $1 r0 *1 164.8,-76.2 PMOS
XM$1 VDD AB_P OUT VDD PMOS L=4u W=2304u AS=3518.4p AD=3518.4p PS=2498.6u
+ PD=2498.6u
* device instance $49 r0 *1 165,-231.8 NMOS
XM$49 VSS AB_N OUT VSS NMOS L=4u W=1152u AS=1790.4p AD=1790.4p PS=1274.6u
+ PD=1274.6u
* device instance $73 r90 *1 -41.6,-206.6 F_CSIO
XC$73 CAP_N OUT VSS F_CSIO C=3.897816e-12 A=6496.36p P=322.4u X=80.6 Y=80.6 m=2
* device instance $75 r90 *1 57.8,-107.2 F_CSIO
XC$75 CAP_P OUT VSS F_CSIO C=3.897816e-12 A=6496.36p P=322.4u X=80.6 Y=80.6 m=2
.ENDS opamp_r2r_ABAMP_KM

* cell opamp_r2r_cascode
* pin INP_P
* pin INM_P
* pin AB_N
* pin BNI
* pin CAP_N
* pin BNF
* pin AB_P
* pin BPF
* pin VDD
* pin CAP_P
* pin BPI
* pin INP_N
* pin INM_N
* pin VSS
.SUBCKT opamp_r2r_cascode INP_P INM_P AB_N BNI CAP_N BNF AB_P BPF VDD CAP_P BPI
+ INP_N INM_N VSS
* device instance $1 r0 *1 -224.2,106.2 PMOS
XM$1 INM_N \$20 VDD VDD PMOS L=4u W=96u AS=159.6p AD=159.6p PS=134.6u PD=134.6u
* device instance $9 m90 *1 -83.8,106.2 PMOS
XM$9 INP_N \$20 VDD VDD PMOS L=4u W=96u AS=159.6p AD=159.6p PS=134.6u PD=134.6u
* device instance $17 r0 *1 -38.1,16.2 PMOS
XM$17 CAP_P \$13 INP_N VDD PMOS L=4u W=96u AS=159.6p AD=159.6p PS=134.6u
+ PD=134.6u
* device instance $25 m90 *1 -116.8,-129.4 NMOS
XM$25 INP_P \$6 VSS VSS NMOS L=4u W=48u AS=87.6p AD=87.6p PS=74.6u PD=74.6u
* device instance $29 r0 *1 -191.2,-129.4 NMOS
XM$29 INM_P \$6 VSS VSS NMOS L=4u W=48u AS=87.6p AD=87.6p PS=74.6u PD=74.6u
* device instance $33 m90 *1 -130.8,-79.4 NMOS
XM$33 AB_N BNI INP_P VSS NMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
* device instance $35 r0 *1 -177.2,-79.4 NMOS
XM$35 \$6 BNI INM_P VSS NMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
* device instance $37 r0 *1 -196.2,61.2 PMOS
XM$37 \$20 BPI INM_N VDD PMOS L=4u W=48u AS=87.6p AD=87.6p PS=74.6u PD=74.6u
* device instance $41 m90 *1 -111.8,61.2 PMOS
XM$41 AB_P BPI INP_N VDD PMOS L=4u W=48u AS=87.6p AD=87.6p PS=74.6u PD=74.6u
* device instance $45 r0 *1 -25.2,-29.4 NMOS
XM$45 CAP_N \$12 INP_P VSS NMOS L=4u W=48u AS=87.6p AD=87.6p PS=74.6u PD=74.6u
* device instance $49 r0 *1 -216.2,-30.7 NMOS
XM$49 \$6 VSS \$20 VSS NMOS L=4u W=12u AS=33.6p AD=33.6p PS=29.6u PD=29.6u
* device instance $50 m90 *1 -183.8,-30.7 NMOS
XM$50 \$6 BNF \$20 VSS NMOS L=4u W=12u AS=33.6p AD=33.6p PS=29.6u PD=29.6u
* device instance $51 m90 *1 -91.8,-30.7 NMOS
XM$51 AB_N VSS AB_P VSS NMOS L=4u W=12u AS=33.6p AD=33.6p PS=29.6u PD=29.6u
* device instance $52 r0 *1 -124.2,-30.7 NMOS
XM$52 AB_N BNF AB_P VSS NMOS L=4u W=12u AS=33.6p AD=33.6p PS=29.6u PD=29.6u
* device instance $53 r0 *1 -55.2,-130.7 NMOS
XM$53 INP_P VSS VSS VSS NMOS L=4u W=12u AS=33.6p AD=33.6p PS=29.6u PD=29.6u
* device instance $54 r0 *1 -25.2,-80.7 NMOS
XM$54 \$5 \$12 \$12 VSS NMOS L=4u W=12u AS=33.6p AD=33.6p PS=29.6u PD=29.6u
* device instance $55 r0 *1 -25.2,-130.7 NMOS
XM$55 VSS \$5 \$5 VSS NMOS L=4u W=12u AS=33.6p AD=33.6p PS=29.6u PD=29.6u
* device instance $56 r0 *1 14.8,-80.7 NMOS
XM$56 VSS AB_N \$13 VSS NMOS L=4u W=12u AS=33.6p AD=33.6p PS=29.6u PD=29.6u
* device instance $57 r0 *1 -38.2,61.2 PMOS
XM$57 \$12 AB_P VDD VDD PMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
* device instance $59 r0 *1 7.8,61.2 PMOS
XM$59 \$13 \$13 \$53 VDD PMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
* device instance $61 r0 *1 7.8,106.2 PMOS
XM$61 \$53 \$53 VDD VDD PMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
* device instance $63 r0 *1 -48.2,106.2 PMOS
XM$63 INP_N VDD VDD VDD PMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
* device instance $65 m90 *1 -171.8,16.2 PMOS
XM$65 \$6 BPF \$20 VDD PMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
* device instance $67 r0 *1 -228.2,16.2 PMOS
XM$67 \$6 VDD \$20 VDD PMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
* device instance $69 m90 *1 -79.8,16.2 PMOS
XM$69 AB_N VDD AB_P VDD PMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
* device instance $71 r0 *1 -136.2,16.2 PMOS
XM$71 AB_N BPF AB_P VDD PMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
.ENDS opamp_r2r_cascode

* cell opamp_r2r_diff_KM
* pin BNO
* pin BNI
* pin INP_N
* pin INM_N
* pin INP
* pin INM
* pin INP_P
* pin BPI
* pin INM_P
* pin 
* pin BPO
* pin VSS
.SUBCKT opamp_r2r_diff_KM BNO BNI INP_N INM_N INP INM INP_P BPI INM_P \$44 BPO
+ VSS
* device instance $1 r0 *1 115.6,-159.9 PMOS
XM$1 INP_P INP \$39 \$44 PMOS L=4u W=48u AS=87.6p AD=87.6p PS=74.6u PD=74.6u
* device instance $5 r0 *1 185.6,-159.9 PMOS
XM$5 INM_P INM \$39 \$44 PMOS L=4u W=48u AS=87.6p AD=87.6p PS=74.6u PD=74.6u
* device instance $9 r0 *1 185.6,-109.9 PMOS
XM$9 \$39 BPI \$53 \$44 PMOS L=4u W=48u AS=87.6p AD=87.6p PS=74.6u PD=74.6u
* device instance $13 r0 *1 115.6,-109.9 PMOS
XM$13 \$39 BPI \$52 \$44 PMOS L=4u W=48u AS=87.6p AD=87.6p PS=74.6u PD=74.6u
* device instance $17 r0 *1 185.6,-52.9 PMOS
XM$17 \$44 BPO \$53 \$44 PMOS L=4u W=48u AS=87.6p AD=87.6p PS=74.6u PD=74.6u
* device instance $21 r0 *1 115.6,-52.9 PMOS
XM$21 \$44 BPO \$52 \$44 PMOS L=4u W=48u AS=87.6p AD=87.6p PS=74.6u PD=74.6u
* device instance $25 r0 *1 122.9,-327.3 NMOS
XM$25 \$2 BNO VSS VSS NMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
* device instance $27 r0 *1 122.9,-277.3 NMOS
XM$27 \$2 BNI \$13 VSS NMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
* device instance $29 r0 *1 192.9,-277.3 NMOS
XM$29 \$3 BNI \$13 VSS NMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
* device instance $31 r0 *1 192.9,-327.3 NMOS
XM$31 \$3 BNO VSS VSS NMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
* device instance $33 r0 *1 122.9,-227.3 NMOS
XM$33 \$13 INP INP_N VSS NMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
* device instance $35 r0 *1 192.9,-227.3 NMOS
XM$35 \$13 INM INM_N VSS NMOS L=4u W=24u AS=51.6p AD=51.6p PS=44.6u PD=44.6u
.ENDS opamp_r2r_diff_KM

* cell opamp_r2r_CS
* pin BNI
* pin BNO
* pin BPO
* pin BPF
* pin BPI
* pin BNF
* pin VB
* pin VDD
* pin VSS
.SUBCKT opamp_r2r_CS BNI BNO BPO BPF BPI BNF VB VDD VSS
* device instance $1 r0 *1 -189.3,-70 NMOS
XM$1 BNO BNI \$9 VSS NMOS L=4u W=12u AS=25.8p AD=25.8p PS=26.6u PD=26.6u
* device instance $3 r0 *1 10,-70 NMOS
XM$3 \$22 BNI \$5 VSS NMOS L=4u W=12u AS=25.8p AD=25.8p PS=26.6u PD=26.6u
* device instance $5 r0 *1 -96.2,-70 NMOS
XM$5 BPI BNI \$8 VSS NMOS L=4u W=12u AS=25.8p AD=25.8p PS=26.6u PD=26.6u
* device instance $7 r0 *1 -50,-70 NMOS
XM$7 BPO BNI \$7 VSS NMOS L=4u W=12u AS=25.8p AD=25.8p PS=26.6u PD=26.6u
* device instance $9 r0 *1 70,-70 NMOS
XM$9 BPF BNI \$4 VSS NMOS L=4u W=12u AS=25.8p AD=25.8p PS=26.6u PD=26.6u
* device instance $11 r0 *1 70,-112.8 NMOS
XM$11 VSS BNO \$4 VSS NMOS L=4u W=12u AS=25.8p AD=25.8p PS=26.6u PD=26.6u
* device instance $13 r0 *1 -50,-112.8 NMOS
XM$13 VSS BNO \$7 VSS NMOS L=4u W=12u AS=25.8p AD=25.8p PS=26.6u PD=26.6u
* device instance $15 r0 *1 -96.2,-112.8 NMOS
XM$15 VSS BNO \$8 VSS NMOS L=4u W=12u AS=25.8p AD=25.8p PS=26.6u PD=26.6u
* device instance $17 r0 *1 -189.3,-112.8 NMOS
XM$17 VSS BNO \$9 VSS NMOS L=4u W=12u AS=25.8p AD=25.8p PS=26.6u PD=26.6u
* device instance $19 r0 *1 10,-112.8 NMOS
XM$19 VSS \$22 \$5 VSS NMOS L=4u W=12u AS=25.8p AD=25.8p PS=26.6u PD=26.6u
* device instance $21 r0 *1 10,-27.2 NMOS
XM$21 BNF BNF \$22 VSS NMOS L=4u W=12u AS=25.8p AD=25.8p PS=26.6u PD=26.6u
* device instance $23 r0 *1 -235.4,-114.1 NMOS
XM$23 VSS BNI \$6 VSS NMOS L=4u W=6u AS=16.8p AD=16.8p PS=17.6u PD=17.6u
* device instance $24 r0 *1 -235.4,-28.5 NMOS
XM$24 \$13 BNI BNI VSS NMOS L=4u W=6u AS=16.8p AD=16.8p PS=17.6u PD=17.6u
* device instance $25 r0 *1 -235.4,-71.3 NMOS
XM$25 \$13 BNI \$6 VSS NMOS L=4u W=6u AS=16.8p AD=16.8p PS=17.6u PD=17.6u
* device instance $26 r0 *1 -262.5,-28.5 NMOS
XM$26 VSS VSS BNI VSS NMOS L=4u W=6u AS=16.8p AD=16.8p PS=17.6u PD=17.6u
* device instance $27 r0 *1 -43,52.2 PMOS
XM$27 BPO BPI \$43 VDD PMOS L=4u W=24u AS=43.8p AD=43.8p PS=44.6u PD=44.6u
* device instance $31 r0 *1 17,94.2 PMOS
XM$31 \$44 BPO VDD VDD PMOS L=4u W=24u AS=43.8p AD=43.8p PS=44.6u PD=44.6u
* device instance $35 r0 *1 -43,94.2 PMOS
XM$35 \$43 BPO VDD VDD PMOS L=4u W=24u AS=43.8p AD=43.8p PS=44.6u PD=44.6u
* device instance $39 r0 *1 77,13.2 PMOS
XM$39 BPF BPF \$38 VDD PMOS L=4u W=24u AS=43.8p AD=43.8p PS=44.6u PD=44.6u
* device instance $43 r0 *1 77,52.2 PMOS
XM$43 \$38 BPI \$45 VDD PMOS L=4u W=24u AS=43.8p AD=43.8p PS=44.6u PD=44.6u
* device instance $47 r0 *1 17,52.2 PMOS
XM$47 BNF BPI \$44 VDD PMOS L=4u W=24u AS=43.8p AD=43.8p PS=44.6u PD=44.6u
* device instance $51 r0 *1 77,94.2 PMOS
XM$51 \$45 \$38 VDD VDD PMOS L=4u W=24u AS=43.8p AD=43.8p PS=44.6u PD=44.6u
* device instance $55 r0 *1 -228.4,52.2 PMOS
XM$55 BNI VB VDD VDD PMOS L=4u W=12u AS=25.8p AD=25.8p PS=26.6u PD=26.6u
* device instance $57 m90 *1 -171.8,52.2 PMOS
XM$57 BNO VB VDD VDD PMOS L=4u W=12u AS=25.8p AD=25.8p PS=26.6u PD=26.6u
* device instance $59 r0 *1 -136.2,13.2 PMOS
XM$59 BPI VDD VDD VDD PMOS L=4u W=12u AS=25.8p AD=25.8p PS=26.6u PD=26.6u
* device instance $61 r0 *1 -89.2,13.2 PMOS
XM$61 BPI BPI \$51 VDD PMOS L=4u W=12u AS=25.8p AD=25.8p PS=26.6u PD=26.6u
* device instance $63 r0 *1 -89.2,94.2 PMOS
XM$63 \$56 BPI VDD VDD PMOS L=4u W=12u AS=25.8p AD=25.8p PS=26.6u PD=26.6u
* device instance $65 r0 *1 -89.2,52.2 PMOS
XM$65 \$51 BPI \$56 VDD PMOS L=4u W=12u AS=25.8p AD=25.8p PS=26.6u PD=26.6u
.ENDS opamp_r2r_CS
